US08138347B2
c) 6-bromo-8-methyl-4-quinolinol
A mixture of 6-bromo-4-hydroxy-8-methyl-3-quinolinecarboxylic acid (1.80 g, 6.36 mmol) and Dowtherm A (10 mL) was heated at 260° C. for 1.0 h. The reaction was cooled, triturated with hexanes, filtered and dried in a Buchner funnel to give the title compound (1.43 g, 95%) as a tan solid. MS(ES)+ m/e 238 [M+H].

reactant | 6-bromo-4-hydroxy-8-methyl-3-quinolinecarboxylic acid | 6.36 mmol, 1.80 g | BrC=1C=C2C(=C(C=NC2=C(C1)C)C(=O)O)O | C11H8BrNO3
solvent | Dowtherm A | 10 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 6-bromo-8-methyl-4-quinolinol | 1.43 g, 95% | BrC=1C=C2C(=CC=NC2=C(C1)C)O | C10H8BrNO
